US09315542B2
4-(Prop-2-yn-1-yloxy)benzene-1-sulfonyl chloride (11)
Referring to FIG. 39, chlorosulfonic acid (19.9 mL, 0.299 mol) was added dropwise to (prop-2-yn-1-yloxy)benzene (17.2 g, 0.130 mol) in dichloromethane (100 mL) at 0° C. The reaction was stirred at 0° C. for 1 hour and then poured into ice-water and extracted with dichloromethane. The extract was washed with water, dried (MgSO4), and evaporated. The residue was purified by Biotage flash column chromatography (30% EtOAc/Hep) to give product as an oil (17.9 g, 60%).

reactant | chlorosulfonic acid | 0.299 mol, 19.9 mL | ClS(=O)(=O)O | ClHO3S
reactant | (prop-2-yn-1-yloxy)benzene | 0.130 mol, 17.2 g | C(C#C)OC1=CC=CC=C1 | C9H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(Prop-2-yn-1-yloxy)benzene-1-sulfonyl chloride | 17.9 g, 60% | C(C#C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C9H7ClO3S
